US06479536B1
N-[4-[[(E)-3-(4-Isopropylphenyl)-2-propenyl]oxy]-2,3,6- trimethylphenyl]formamide
To a solution of N-(4-hydroxy-2,3,6-trimethylphenyl)formamide (5.20 g, 29.0 mmol) in N,N-dimethylformamide (30 ml) was added at 0° C. under a nitrogen atmosphere sodium hydride (a 60% dispersion in liquid paraffin, 1.39 g, 34.8 mmol) and the resulting mixture was stirred at the same temperature for 10 minutes. To the reaction solution was added 1-[(E)-3-bromo-1-propenyl]-4-isopropylbenzene (9.00 g, 37.7 mmol) and the resulting mixture was stirred at room temperature for 30 minutes. Water was added into the reaction solution and the product was extracted twice with ethyl acetate. The combined extracts were washed with water, dried on magnesium sulfate, and then concentrated under reduced pressure. The resulting residue was crystallized from ethyl acetate-hexane to obtain 5.80 g (59% yield) of the title compound. Melting point: 165-167° C.

reactant | N-(4-hydroxy-2,3,6-trimethylphenyl)formamide | 29.0 mmol, 5.20 g | OC1=C(C(=C(C(=C1)C)NC=O)C)C | C10H13NO2
reactant | sodium hydride | [H-].[Na+]
reactant | 1-[(E)-3-bromo-1-propenyl]-4-isopropylbenzene | 37.7 mmol, 9.00 g | BrC/C=C/C1=CC=C(C=C1)C(C)C | C12H15Br
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[4-[[(E)-3-(4-Isopropylphenyl)-2-propenyl]oxy]-2,3,6- trimethylphenyl]formamide | 5.80 g, 59% yield | C(C)(C)C1=CC=C(C=C1)/C=C/COC1=C(C(=C(C(=C1)C)NC=O)C)C | C22H27NO2
